US09359338B2
Step 1: Synthesis of N-[4-(2-fluoro-4-nitro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide
Add the solution of the above 1-methylcyclopropanecarbonyl chloride in DCM slowly to a solution of 4-(2-fluoro-4-nitro-phenoxy)pyridin-2-amine (500 mg, 2.0 mmol) and Et3N (505 mg, 5.0 mmol) in DCM (15 mL) at 0° C. Stir the reaction at room temperature for 15 hrs. TLC (EtOAc:PE=1:1) shows the reaction is complete. Concentrate the mixture to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:1) affords the target compound (160 mg, 24%). MS: (M+1): 332.2.

reactant | 1-methylcyclopropanecarbonyl chloride | CC1(CC1)C(=O)Cl | C5H7ClO
reactant | 4-(2-fluoro-4-nitro-phenoxy)pyridin-2-amine | 2.0 mmol, 500 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | Et3N | 5.0 mmol, 505 mg | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(2-fluoro-4-nitro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide | 160 mg, 24% | FC1=C(OC2=CC(=NC=C2)NC(=O)C2(CC2)C)C=CC(=C1)[N+](=O)[O-] | C16H14FN3O4
